US08912188B2
To a solution of 1-bromo-4-fluorobenzene (3.0 g, 17.14 mmol) in dioxane (100.0 mL) and water (3.0 mL) was added (furan-2-yl)boronic acid (5.76 g, 51.48 mmol), K3PO4 (10.76 g, 50.69 mmol) and Pd(PPh3)4 (980 mg, 0.85 mmol) with stirring for 2 h at 90° C. in an oil bath maintained under an inert atmosphere of nitrogen. The reaction mixture was concentrated under reduced pressure to give the residue, which was purified via silica gel chromatography (1% ethyl acetate in petroleum ether) to afford 2-(4-fluorophenyl)furan as colorless oil (2.5 g, 90%).

reactant | 1-bromo-4-fluorobenzene | 17.14 mmol, 3.0 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | (furan-2-yl)boronic acid | 51.48 mmol, 5.76 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | K3PO4 | 50.69 mmol, 10.76 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 100.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 3.0 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.85 mmol, 980 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-fluorophenyl)furan | 2.5 g, 90% | FC1=CC=C(C=C1)C=1OC=CC1 | C10H7FO
